### PR TITLE
feat(Topology/Order/DenselyOrdered): prove Not (IsOpen) for intervals

### PR DESCRIPTION
**Pull request by Aaron1011**
Prove that Iic/Ici/Ioc/Ico/Icc intervals are not open in densely ordered topologies with no min/max element

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Order/DenselyOrdered.lean [hunk 1]
```diff
@@ -229,6 +229,33 @@ theorem comap_coe_nhdsWithin_Iio_of_Ioo_subset (hb : s ⊆ Iio b)
     obtain ⟨x : s, hx : ∀ z, x ≤ z → z ∈ u⟩ := mem_atTop_sets.1 hu
     exact ⟨Ioo x b, Ioo_mem_nhdsWithin_Iio' (hb x.2), fun z hz => hx _ hz.1.le⟩
 
+/-- A set with a point in both the frontier and the set is not open -/
+private lemma frontier_to_not_IsOpen{α: Type*} [TopologicalSpace α] {s: Set α} {a: α}
```
Comment (vihdzp) [inline Mathlib/Topology/Order/DenselyOrdered.lean:233]: I see no reason for this to be private. You can rename it as `not_isOpen_of_mem_of_mem_frontier`.

File: Mathlib/Topology/Order/DenselyOrdered.lean [hunk 2]
```diff
@@ -229,6 +229,33 @@ theorem comap_coe_nhdsWithin_Iio_of_Ioo_subset (hb : s ⊆ Iio b)
...
+    (hb: a ∈ s) (hf: a ∈ frontier s): ¬IsOpen s := by
+  apply not_imp_not.mpr IsOpen.inter_frontier_eq
+  simp_rw [Set.eq_empty_iff_forall_not_mem, Set.mem_inter_iff, not_forall, Classical.not_not]
+  refine ⟨a, ⟨hb, hf⟩⟩
+
+/-- The interval `(-∞, a]` is not open. -/
```
Comment (vihdzp) [inline Mathlib/Topology/Order/DenselyOrdered.lean:239]: I'm not quite sure what the convention for punctuation marks in docstrings is, but I'd rather see all of this end in a period, or none of them.

File: Mathlib/Topology/Order/DenselyOrdered.lean [hunk 3]
```diff
@@ -229,6 +229,33 @@ theorem comap_coe_nhdsWithin_Iio_of_Ioo_subset (hb : s ⊆ Iio b)
...
+theorem not_IsOpen_Iic [NoMaxOrder α]: ¬IsOpen (Set.Iic a) := by
+  apply not_imp_not.mpr IsOpen.inter_frontier_eq
+  rw [frontier_Iic, Set.inter_singleton_eq_empty, Set.mem_Iic, Classical.not_not]
+
+/-- The interval `[a, ∞)` is not open. -/
+theorem not_IsOpen_Ici [NoMinOrder α] : ¬IsOpen (Set.Ici a) := not_IsOpen_Iic (α := αᵒᵈ)
+
+/-- The interval `(a, b]` is not open when a < b -/
+theorem not_IsOpen_Ioc [NoMaxOrder α] (h: a < b): ¬IsOpen (Set.Ioc a b) :=
```
Comment (vihdzp) [inline Mathlib/Topology/Order/DenselyOrdered.lean:248]:
```suggestion
theorem not_isOpen_Ioc [NoMaxOrder α] (h: a < b) : ¬ IsOpen (Set.Ioc a b) :=
```
and likewise for the other theorems.

File: Mathlib/Topology/Order/DenselyOrdered.lean [hunk 4]
```diff
@@ -229,6 +229,33 @@ theorem comap_coe_nhdsWithin_Iio_of_Ioo_subset (hb : s ⊆ Iio b)
     obtain ⟨x : s, hx : ∀ z, x ≤ z → z ∈ u⟩ := mem_atTop_sets.1 hu
     exact ⟨Ioo x b, Ioo_mem_nhdsWithin_Iio' (hb x.2), fun z hz => hx _ hz.1.le⟩
 
+/-- A set with a point in both the frontier and the set is not open -/
+lemma not_isOpen_of_mem_of_mem_frontier {α: Type*} [TopologicalSpace α] {s: Set α} {a: α}
```
Comment (vihdzp) [inline Mathlib/Topology/Order/DenselyOrdered.lean:233]: Since this lemma is not about orders, it should go in another file. I think it could go right below [`inter_frontier_eq`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Basic.html#IsOpen.inter_frontier_eq).

Also, please add a space before every colon, e.g. by writing `a : α` instead of `a: α`.

File: Mathlib/Topology/Order/DenselyOrdered.lean [hunk 5]
```diff
@@ -229,6 +229,33 @@ theorem comap_coe_nhdsWithin_Iio_of_Ioo_subset (hb : s ⊆ Iio b)
...
+    (hb: a ∈ s) (hf: a ∈ frontier s): ¬IsOpen s := by
+  apply not_imp_not.mpr IsOpen.inter_frontier_eq
+  simp_rw [Set.eq_empty_iff_forall_not_mem, Set.mem_inter_iff, not_forall, Classical.not_not]
+  refine ⟨a, ⟨hb, hf⟩⟩
+
+/-- The interval `(-∞, a]` is not open -/
```
Comment (vihdzp) [inline Mathlib/Topology/Order/DenselyOrdered.lean:239]: I think it's better to just use the Mathlib notation for this.
```suggestion
/-- The interval `Iic a` is not open -/
```

File: Mathlib/Topology/Order/DenselyOrdered.lean [hunk 6]
```diff
@@ -229,6 +229,33 @@ theorem comap_coe_nhdsWithin_Iio_of_Ioo_subset (hb : s ⊆ Iio b)
...
+theorem not_isOpen_Iic [NoMaxOrder α]: ¬IsOpen (Set.Iic a) := by
```
Comment (vihdzp) [inline Mathlib/Topology/Order/DenselyOrdered.lean:240]: You don't need the `NoMaxOrder` assumption, only that `a` itself is not maximal.

File: Mathlib/Topology/Order/DenselyOrdered.lean [hunk 7]
```diff
@@ -229,6 +229,33 @@ theorem comap_coe_nhdsWithin_Iio_of_Ioo_subset (hb : s ⊆ Iio b)
...
+/-- The interval `[a, ∞)` is not open -/
+theorem not_isOpen_Ici [NoMinOrder α] : ¬IsOpen (Set.Ici a) := not_isOpen_Iic (α := αᵒᵈ)
+
+/-- The interval `(a, b]` is not open when a < b -/
+theorem not_isOpen_Ioc [NoMaxOrder α] (h: a < b): ¬IsOpen (Set.Ioc a b) :=
+  not_isOpen_of_mem_of_mem_frontier (Set.mem_Ioc.mpr ⟨h, le_refl _⟩) (by simp [frontier_Ioc h])
+
+/-- The interval `[a, b)` is not open when a < b -/
+theorem not_isOpen_Ico [NoMinOrder α] (h: a < b): ¬IsOpen (Set.Ico a b) := by
+  simpa only [Set.Ioc, and_comm] using (not_isOpen_Ioc (α := αᵒᵈ) (LT.lt.dual h))
```
Comment (vihdzp) [inline Mathlib/Topology/Order/DenselyOrdered.lean:253]:
```suggestion
  simpa only [Set.Ioc, and_comm] using (not_isOpen_Ioc (α := αᵒᵈ) h.dual)
```
Do you really need the explicit type declaration here?

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
